US08563742B2
To a stirred solution of (1-carboxymethyl-cyclopentyl)-acetic acid (1.0 g, 5.3 mmol) at 0° C. was added borane in THF (20 mL, 1.0 M; 20 mmol) and the resultant reaction mixture was stirred and allowed to come to RT overnight. The reaction mixture was cooled in an ice bath and quenched by dropwise addition of methanol (about 5 mL). The solvent was evaporated under reduced pressure and the residue was partitioned between aqueous sodium bicarbonate and ethyl acetate (about 50 mL, 1:1). The organic phase was dried over Na2SO4, concentrated under reduced pressure and filtered through a bed of silica gel to afford 2-[1-(2-hydroxy-ethyl)-cyclopentyl]-ethanol (800 mg) after evaporation of the eluent.

reactant | (1-carboxymethyl-cyclopentyl)-acetic acid | 5.3 mmol, 1.0 g | C(=O)(O)CC1(CCCC1)CC(=O)O | C9H14O4
reactant | borane | B | BH3
reactant | THF | 20 mmol, 1.0 M, 20 mL | C1CCOC1 | C4H8O
product | 2-[1-(2-hydroxy-ethyl)-cyclopentyl]-ethanol | 800 mg | OCCC1(CCCC1)CCO | C9H18O2
